US04521430
3.01 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one and 1.74 g of 3-(dimethylamino)propyl chloride hydrochloride are dissolved in 30 ml of acetone, and 3.04 g of potassium carbonate are added thereto. The mixture is refluxed overnight under stirring. After the reaction, the mixture is condensed under reduced pressure, and the residue is dissolved in ethyl acetate and water. The ethyl acetate layer is collected, dried and then evaporated to remove solvent. 3.3 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[3-(dimethylamino)-propyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are thereby obtained as an oil.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.01 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC=C2 | C16H15NO3S
reactant | 3-(dimethylamino)propyl chloride hydrochloride | 1.74 g | Cl.CN(CCCCl)C
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[3-(dimethylamino)-propyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 3.3 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCCN(C)C)C=CC=C2 | C21H26N2O3S
